US05858524
25 g of glycidyl methacrylate.
The initiator solution consisted of 2.5 g of 70% t-butyl hydroperoxide dissolved in 25 g of water and the reducing agent solution consisted of 1.4 g of erythorbic acid, 0.5 g of aqua ammonia, and 25 g of water. The reactor contents were heated to 50° C. and 52.8 g of monomer mixture #1 was added to the reactor. Two ml of the initiator solution and 1 ml of the reducing agent solution were separately added to the reactor. Polymerization was started. The remaining monomer mixture #1 was added over a 60 minute period followed by a 30 minute addition of monomer mixture #2. The remaining initiator and reducing agent solutions were added over a 105 minute period. After completion of the additions, the polymer dispersion was held at 70° C. for 30 minutes. The polymer dispersion was checked by gas chromatographic analysis for residual unreacted monomer. The monomer content was less than 1000 ppm. The dispersion was cooled to room temperature and the physical properties determined.

reactant | t-butyl hydroperoxide | 2.5 g | C(C)(C)(C)OO | C4H10O2
reactant | erythorbic acid | 1.4 g | C([C@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
reactant | ammonia | 0.5 g | N | H3N
solvent | water | 25 g | O | H2O
solvent | water | 25 g | O | H2O
product | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
